US08304577B2
A solution of (1R)-2-azido-1-(4-(2-methylpentyloxy)phenyl)ethanamine (9.0 g, 34.3 mmol) in dichloromethane (100 mL) was cooled to 0° C. To this solution, (S)-2-phenylpropanoic acid (7.0 mL, 51.5 mmol), N,N-diisopropylethylamine (35.9 mL, 206 mmol) and HATU (19.57 g, 51.5 mmol) were added. The ice bath was removed and reaction mixture was stirred at room temperature for 3 h. The reaction mixture was transferred to a separatory funnel containing saturated aqueous NaHCO3 solution (60 mL). The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (25 mL), dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (30→40% ethyl acetate in hexanes) to afford (2S)-N-((1R)-2-azido-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide (12.5 g, 92% yield) as a colorless solid: 1H NMR (400 MHz, CDCl3) δ 7.21-7.34 (m, 5H), 6.98 (d, J=8.6 Hz, 2H), 6.78 (d, J=8.8 Hz, 2H), 6.37 (d, J=8.1 Hz, 1H), 5.10 (ddd, J=7.9, 5.8, 5.7 Hz, 1H), 3.76 (dd, J=9.1, 5.8 Hz, 1H), 3.61-3.70 (m, 2H), 3.46-3.56 (m, 2H), 1.87-1.98 (m, 1H), 1.52 (d, J=7.3 Hz, 3H), 1.26-1.51 (m, 3H), 1.21 (dddd, J=12.3, 7.6, 5.3, 5.0 Hz, 1H), 1.01 (d, J=6.5 Hz, 3H), 0.93 (t, J=7.1 Hz, 3H); LRMS (ESI) m/e 395.3 [(M+H)+, calcd for C23H31N4O2 395.3].

reactant | (1R)-2-azido-1-(4-(2-methylpentyloxy)phenyl)ethanamine | 34.3 mmol, 9.0 g | N(=[N+]=[N-])C[C@H](N)C1=CC=C(C=C1)OCC(CCC)C | C14H22N4O
reactant | (S)-2-phenylpropanoic acid | 51.5 mmol, 7.0 mL | C1(=CC=CC=C1)[C@@H](C(=O)O)C | C9H10O2
reactant | N,N-diisopropylethylamine | 206 mmol, 35.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 51.5 mmol, 19.57 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (2S)-N-((1R)-2-azido-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide | 12.5 g, 92% yield | N(=[N+]=[N-])C[C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC([C@@H](C)C1=CC=CC=C1)=O | C23H30N4O2
